US04254034
(a) 18-crown-6-dimethylcarbonate complex
5 Equivalents of dimethylcarbonate were added to a solution of 53 mg 18-crown-6 in 1 ml diethylether at 25° C. A solid complex was formed immediately. The precipitated crystals were filtered off at atmospheric pressure. The crystals contained 81% of the starting amount of 18-crown-6. A melting point range of 39°-54° C. was observed.

reactant | dimethylcarbonate | COC(OC)=O | C3H6O3
reactant | 18-crown-6 | 53 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | diethylether | 1 ml | C(C)OCC | C4H10O
product | 18-crown-6 dimethylcarbonate | C1COCCOCCOCCOCCOCCO1.COC(OC)=O | InChI=1S/C12H24O6.C3H6O3/c1-2-14-5-6-16-9-10-18-12-11-17-8-7-15-4-3-13-1;1-5-3(4)6-2/h1-12H2;1-2H3
